US04321372
2-Amino-4-cyclohexylthiazole
Cyclohexylbromomethylketone (49 g., 0.24 mole) was added to a slurry of thiourea (20.1 g., 0.26 mole) in 250 ml. of ethanol and the mixture heated to reflux. The resulting solution was refluxed for 2 hours, cooled to room temperature and evaporated in vacuo to an oil. The oil was taken up in 100 ml. of water, the solution made basic with concentrated ammonium hydroxide and crude product recovered in two crops by filtration. Crude product was recrystallized from cyclohexane to yield purified 2-amino-4-cyclohexylthiazole (20.4 g.; m.p. 141°-143° C.).

reactant | Cyclohexylbromomethylketone | 0.24 mole, 49 g | C1(CCCCC1)C(Br)C(=O)C(C1CCCCC1)Br | C15H24Br2O
reactant | thiourea | 0.26 mole, 20.1 g | NC(=S)N | CH4N2S
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-cyclohexylthiazole | NC=1SC=C(N1)C1CCCCC1 | C9H14N2S
